US07169778B2
2. Ethyl 2-(3,5-dichloro-2,6-dimethoxypyridin-4-yl)-2-oxoacetate
A solution of 5.20 g (25 mmol) of 3,5-dichloro-2,6-dimethoxypyridine (J. Bratt, H. Suschitzky, J.C.S. Perkin I, 1983:1689–1693) in 40 mL THF is added dropwise over 30 minutes to a solution of 20 mL (30 mmol) of 1.5 M LDA in 20 mL THF at −78° C. The resulting solution is stirred at −78° C. for 1 hour, and 4.5 mL (33 mmol) of diethyl oxalate is then added. The temperature is allowed to rise slowly to room temperature and aqueous ammonium chloride solution is added, and the solvent is removed under vacuum. The residue is extracted into EtOAc and chromatographed on SiO2, eluting with hexane-EtOAc (9:1), to give 5.97 g (78%) of the title compound: mp (hexane) 195–196° C.

reactant | 3,5-dichloro-2,6-dimethoxypyridine | 25 mmol, 5.20 g | ClC=1C(=NC(=C(C1)Cl)OC)OC | C7H7Cl2NO2
reactant | LDA | 30 mmol, 1.5 M, 20 mL | [Li+].CC(C)[N-]C(C)C
reactant | diethyl oxalate | 33 mmol, 4.5 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Ethyl 2-(3,5-dichloro-2,6-dimethoxypyridin-4-yl)-2-oxoacetate | 5.97 g, 78% | ClC=1C(=NC(=C(C1C(C(=O)OCC)=O)Cl)OC)OC | C11H11Cl2NO5
